US06900309B1
(2R,3R,4S,5R)-2-{6-[(2,2-Diphenylethyl)amino]-2-iodo-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-{6[(2,2-diphenylethyl)amino]-2-iodo-9H-purin-9-yl}tetrahydro-3-furanyl acetate (1.7 g, 2.43 mmol) (Preparation 1) was dissolved in 10:1, by volume, methanol water (88 ml). Solid sodium carbonate (1.5 g, 14.1 mmol) was added and the mixture stirred at room temperature for 90 minutes before removing the methanol by evaporation under reduced pressure. The residual aqueous solution was diluted with water (50 ml) and extracted with ethyl acetate (150 ml). The organic phase was washed sequentially with water and brine, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to yield the title compound as a white solid (1.4 g).

reactant | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-{6[(2,2-diphenylethyl)amino]-2-iodo-9H-purin-9-yl}tetrahydro-3-furanyl acetate | 2.43 mmol, 1.7 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)I)COC(C)=O | C30H30IN5O7
reactant | sodium carbonate | 14.1 mmol, 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol water | 88 ml | O.CO
product | (2R,3R,4S,5R)-2-{6-[(2,2-Diphenylethyl)amino]-2-iodo-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol | 1.4 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)I)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)C1=CC=CC=C1 | C24H24IN5O4
